US04584293
7,8-Dimethoxy-2,3,-dihydro-1H-3-benzazepine
A boiling suspension of lithium aluminum hydride (0.8 g) in absolute dioxan (100 ml) is mixed with 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one (2.2 g, 0.01 mol) and then refluxed for 3 hours. While cooling with iced water, 10% ammonium chloride solution is added and the precipitate formed is suction filtered. The filtrate is concentrated (to about 20 ml) in vacuo, the white precipitate obtained is suction filtered and washed with a little dioxan. Yield: 0.9 g. Mp: 162°-163° C.

reactant | lithium aluminum hydride | 0.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | 0.01 mol, 2.2 g | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
reactant | water | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | 7,8-Dimethoxy-2,3,-dihydro-1H-3-benzazepine | COC1=CC2=C(CCNC=C2)C=C1OC | C12H15NO2
